US07893085B2
7-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-ethoxy)-amide
A solution of 7-fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide (100 mg, 0.19 mmol) in a mixture of methanol and DCM was loaded onto a 5 g SCX-2 cartridge, which was eluted with methanol followed by a 2M solution of ammonia in methanol. Appropriate fractions were combined and concentrated under reduced pressure. The residual solid was purified by column chromatography (Si-SPE, gradient 0-40% tert-butyl dimethyl ether in DCM then 10% methanol in DCM) to afford the title compound as a yellow solid (50 mg, 53%). LCMS (method A): RT=9.60 min, M+H+=492. 1H NMR (CD3OD, 400 MHz) 3.58 (2H, t, J=4.89 Hz), 3.84 (2H, t, J=4.91 Hz), 6.89 (1H, t, J=8.76 Hz), 6.98 (1H, dd, J=8.41, 2.15 Hz), 7.21-7.26 (1H, m), 8.02 (1H, d, J=5.61 Hz), 8.45 (1H, dd, J=8.25, 5.61 Hz), 8.53-8.59 (1H, m).

reactant | 7-fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.19 mmol, 100 mg | C(=C)OCCONC(=O)C1=C(C=2C=NC=C(C2S1)F)NC1=C(C=C(C=C1)I)F | C18H14F2IN3O3S
solvent | methanol | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 7-Fluoro-3-(2-fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-ethoxy)-amide | 50 mg, 53% | OCCONC(=O)C1=C(C=2C=NC=C(C2S1)F)NC1=C(C=C(C=C1)I)F | C16H12F2IN3O3S
